US08426585B2
Step 5) (5R)-5-((tetrahydro-2H-pyran-2-yloxy)methyl)-4-oxaspiro[2.4]heptane
To a solution of 14(S)-3-hydroxy-4-(tetrahydro-2H-pyran-2-yloxy)butyl)-cyclopropanol (1.73 g, 0.0075 mol) and PPh3 (2.95 g, 0.0113 mol, Richjoint) in 32 mL of anhydrous THF at rt under N2 was added DEAD (1.96 g, 0.0113 mol, Aladdin) dropwise via a syringe. The reaction was stirred at 60° C. for 12 hours. The solvent was concentrated in vacuo. The red oil was purified by a silica gel column chromatography (8:1 (v/v) n-hexane/EtOAc) to give the title compound as colorless oil (1.1 g, 64%)2.

reactant | cyclopropanol | 0.0075 mol, 1.73 g | C1(CC1)O | C3H6O
reactant | PPh3 | 0.0113 mol, 2.95 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DEAD | 0.0113 mol, 1.96 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | THF | 32 mL | C1CCOC1 | C4H8O
product | (5R)-5-((tetrahydro-2H-pyran-2-yloxy)methyl)-4-oxaspiro[2.4]heptane | 1.1 g, 64% | O1C(CCCC1)OC[C@@H]1OC2(CC2)CC1 | C12H20O3
